US05739299
2-Chloro-5-amino benzene sulphonylfluoride (2.1 parts) was stirred in acetic/propionic acid 86/14 vol/vol (25 parts) and cooled to 0°-5° C. Nitrosyl sulphuric acid solution (3.8 parts) was added and stirred at 0°-5° C. for 3 hours. The diazo solution was then added to a mixture of N,N-bis(2-cyanoethyl)aniline (2.1 parts), methanol (75 parts) and sulphamic acid (1 part) stirring in ice/water (75 parts) at 0°-5° C. Stirred under these conditions for 1 hour then allowed to stand at room temperature overnight before filtering off the dye. The solid was dried overnight to yield the product 4-(4-chloro-5-fluorosulphonylphenylazo)-N,N-bis(2-cyanoethyl)aniline (3.6 parts). The dye, when applied to polyester material from an aqueous dispersion, gave yellow shades. λmax 414 nm.

reactant | 2-Chloro-5-amino benzene sulphonylfluoride | ClC1=C(C=C(C=C1)N)S(=O)(=O)F | C6H5ClFNO2S
reactant | Nitrosyl sulphuric acid | N(=O)OS(O)(=O)=O | HNO5S
reactant | N,N-bis(2-cyanoethyl)aniline | C(#N)CCN(C1=CC=CC=C1)CCC#N | C12H13N3
reactant | sulphamic acid | S(N)(O)(=O)=O | H3NO3S
solvent | acetic propionic acid | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C.C(CC)(=O)O
solvent | methanol | CO | CH4O
product | 4-(4-chloro-5-fluorosulphonylphenylazo)-N,N-bis(2-cyanoethyl)aniline | ClC1=CC=C(C=C1S(=O)(=O)F)N=NC1=CC=C(N(CCC#N)CCC#N)C=C1 | C18H15ClFN5O2S
